US08754114B2
Step 2: N-{3-[7-(6-piperazin-1-ylpyridin-3-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea
tert-Butyl 4-(5-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-imidazo[1,2-b]pyridazin-7-yl}pyridin-2-yl)piperazine-1-carboxylate (64 mg, 0.11 mmol) in methanol (0.5 mL) was treated with 4 N HCl in dioxane (0.4 mL) at r.t. for 1 h. The volatiles were removed under reduced pressure. The residue was dried in vacuum to afford the desired crude product which was used directly in next step without further purification. LCMS (M+H)+: m/z=497.1.

reactant | tert-Butyl 4-(5-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-imidazo[1,2-b]pyridazin-7-yl}pyridin-2-yl)piperazine-1-carboxylate | 0.11 mmol, 64 mg | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C29H31F3N8O3
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
product | N-{3-[7-(6-piperazin-1-ylpyridin-3-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1(CCNCC1)C1=CC=C(C=N1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C24H23F3N8O
